US06716861B2
tert-butyl (3R)-3-(3-{[(2-amino-2-oxoethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate
Method as for preparation 106 using tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (250 mg, 0.71 mmol) and 2-bromoacetamide (98 mg, 0.71 mmol) as starting materials and Et3N as the base.

reactant | tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.71 mmol, 250 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | 2-bromoacetamide | 0.71 mmol, 98 mg | BrCC(=O)N | C2H4BrNO
solvent | Et3N | CCN(CC)CC | C6H15N
product | tert-butyl (3R)-3-(3-{[(2-amino-2-oxoethyl)amino]methyl}-1,2,4-oxadiazol-5-yl)-6-cyclohexylhexanoate | NC(CNCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1)=O | C21H36N4O4
